### PR TITLE
[Merged by Bors] - feat(AffineSpace): define the dimension of an affine subspace

### PR DESCRIPTION
**Pull request by vlad902**
Define the dimension of affine subspace as `WithBot Cardinal`/`WithBot Nat`. It's equal to `⊥` if the subspace is empty, and otherwise it's equal to `Module.rank`/`Module.finrank`. This is a useful notion since the empty subspace and a point are clearly different dimensions that behave differently. This is motivated by the fact that this notion of dimension correlates with the rank of an element in the face lattice of a polytope.

`LinearAlgebra/FiniteDimensional.lean` develops some basic theory for finite dimensional affine subspaces using Module.finrank directly. I want to get this definition and basic API reviewed first, and then I intend to update it to use this new API.

Created as part of the Berlin "Polyhedra in Lean" workshop.

Co-authored-by: Xavier Allamigeon <xavier.allamigeon@inria.fr>
Co-authored-by: Arne Kuhrs <ArneKuhrs@users.noreply.github.com>
Co-authored-by: Louis Theran <lst6@st-andrews.ac.uk>
Co-authored-by: Juni Vogt <juni@vo.gt>

---

I also have some further API for dimension that I would like to add (classifying 0/1 dimensional subspaces, relating it to `AffineIndependent` generators of a subspace) that would go along with a forthcoming refactor of `LinearAlgebra/FiniteDimensional.lean`

Some relevant discussion on Zulip here, talking about the use of `WithBot`: [#mathlib4 > Dimensions of affine subspaces @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Dimensions.20of.20affine.20subspaces/near/619115381)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 1]
```diff
@@ -0,0 +1,205 @@
...
+
+section Ring
+
+variable [Ring R] [Module R V] [Module R V']
+variable {s t : AffineSubspace R A}
+
+open Classical in
+/-- The dimension of `s` is equal to `⊥` if `s = ⊥`, and otherwise it is equal to the dimension of
+`s` interpreted as a linear space. -/
+noncomputable def dim (s : AffineSubspace R A) : WithBot Cardinal :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean:44]: Should this be `rank` for consistency? I am sure what term the literature uses when `R` isn't a field

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 2]
```diff
@@ -0,0 +1,205 @@
...
+  if s = ⊥ then ⊥
+  else Module.rank R s.direction
+
+/-- The dimension of `s` is equal to `⊥` if `s = ⊥`, and otherwise it is equal to the finite
+dimension of `s` interpreted as a linear space. Note that this inherits `Module.finrank`s junk
+value: `AffineSubspace.findim s = 0` for infinite dimensional subspaces. -/
+noncomputable def findim (s : AffineSubspace R A) : WithBot ℕ :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean]:
```suggestion
noncomputable def finDim (s : AffineSubspace R A) : WithBot ℕ :=
```
I think it should be `finRank` for similar reasons but that's out of scope here

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean (hunk 1 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/Dimension.lean:44]: It is not clear. In the module case, the current definition of rank of a submodule agrees with the rank it gets assigned in the lattice of submodules. But in the affine case (with the proposed definition), this is not true. Dimension is sometimes used with an offset from rank (e.g. in simplicial complexes or abstract polytopes), and maybe this is an argument to here use dim instead of rank to highlight this offset? Just a consideration.

Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/Dimension.lean:44]: Another geometer here has agreed that dimension is the appropriate term for this notion

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 3]
```diff
@@ -0,0 +1,215 @@
...
+  simp
+
+theorem finDim_ne_bot_iff : finDim s ≠ ⊥ ↔ (s : Set A).Nonempty := by
+  contrapose!
+  simp
+
+theorem dim_eq_rank (h : s ≠ ⊥) : dim s = Module.rank R s.direction := by
+  simpa [dim]
+
+theorem finDim_eq_finrank (h : s ≠ ⊥) : finDim s = Module.finrank R s.direction := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean:91]:
```suggestion
theorem finrank_direction (h : s ≠ ⊥) : Module.finrank R s.direction = finDim s := by
```
maybe instead?

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 4]
```diff
@@ -0,0 +1,215 @@
...
+    (h : ¬Module.Finite R s.direction) : finDim s = 0 := by
+  by_cases hs : s = ⊥
+  · rw [hs, direction_bot] at h
+    exact False.elim <| h <| Module.Finite.bot ..
+  rw [finDim_eq_finrank hs, Nat.cast_eq_zero]
+  exact Module.finrank_of_not_finite h
+
+@[simp]
+theorem dim_lt_aleph0 [StrongRankCondition R] (s : AffineSubspace R A)
+    [Module.Finite R s.direction] : dim s < Cardinal.aleph0 := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean]: Can you use the cardinal notation? Same below

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 5]
```diff
@@ -0,0 +1,215 @@
...
+      WithBot.map Cardinal.lift.{v'} s.dim := by
+  by_cases hs : map f s = ⊥
+  · simp_all
+  rw [dim_eq_rank hs, dim_eq_rank (by simp_all), map_direction]
+  simp only [WithBot.map_coe, WithBot.coe_inj]
+  refine LinearEquiv.lift_rank_eq <| (Submodule.equivMapOfInjective _ ?_ _).symm
+  exact f.linear_injective_iff.mpr hf
+
+theorem finDim_map_eq_finDim_of_injective {f : A →ᵃ[R] A'} (hf : Function.Injective f)
+    (s : AffineSubspace R A) : (map f s).finDim = s.finDim := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean]:
```suggestion
theorem finDim_map_of_injective {f : A →ᵃ[R] A'} (hf : Function.Injective f)
    (s : AffineSubspace R A) : (map f s).finDim = s.finDim := by
```

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean [hunk 6]
```diff
@@ -0,0 +1,215 @@
...
+@[gcongr]
+theorem finDim_mono [StrongRankCondition R] [Module.Finite R t.direction] (h : s ≤ t) :
+    finDim s ≤ finDim t := by
+  by_cases hs : s = ⊥
+  · simp [hs]
+  simp [finDim_eq_finrank hs, finDim_eq_finrank (ne_bot_of_le_ne_bot hs h),
+    Submodule.finrank_mono (direction_le h)]
+
+theorem map_lift_dim_map_le (f : A →ᵃ[R] A') (s : AffineSubspace R A) :
+    WithBot.map Cardinal.lift.{v} (map f s).dim ≤
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/Dimension.lean]: Maybe we can lie here and not mention `map`
```suggestion
theorem lift_dim_map_le (f : A →ᵃ[R] A') (s : AffineSubspace R A) :
    WithBot.map Cardinal.lift.{v} (map f s).dim ≤
```
Also where is the `lift`-less version?

Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/Dimension.lean]: Ah, thanks. I am new to Cardinals and hadn't noticed the pattern of including a lemma without `Cardinal.lift`.

File: Mathlib/LinearAlgebra/AffineSpace/Dimension.lean (hunk 3 above)
Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/Dimension.lean:91]: I'm not sure about this one. Usually I think you will have the `s \ne \bot` hypothesis available because you're doing a case distinction and want to reduce to the Module.finrank case, but maybe I am too narrowly considering the way its used in developing the dimension API itself?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by martinwintermath** [comment]
Some afterthoughts here: [#mathlib4 > Dimensions of affine subspaces @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Dimensions.20of.20affine.20subspaces/near/621638280)
